US07691893B2
Preparation 15: methyl 1-(aminocarbonyl)-2-(3,4-dichlorophenyl)-2-(2-hydroxyethyl)cyclopropanecarboxylate (P15)
Tetrabutylammonium fluoride (TBAF) (5.6 mL, 1.1M/TFH) was added dropwise to a stirred solution of dimethyl 2-(3,4-dichlorophenyl)-2-(2-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}ethyl)-1,1-cyclopropanedicarboxylate (P14, 2.38 g) in THF (27 mL), at 0° C. After 4 h the ice-bath was removed and the reaction mixture was stirred for 3 h at RT. The solvent was removed under reduced pressure, the residue was treated with ether and water, the organic phase washed with brine, dried over Na2SO4 and the solvent evaporated under vacuum to give the crude lactone intermediate (2.08 g). This product was dissolved in a mixture of THF (15 mL) and methanol (10 mL), at RT, aqueous NH4OH (28%, 16 mL) was added dropwise and the reaction mixture was stirred for 4 h. The mixture was concentrated under reduced pressure, the residue was taken up with DCM and water, the organic phase was washed with brine, dried over Na2SO4 and the solvent evaporated under vacuum. The crude product was purified by FC (eluting with DCM/methanol from 1/0 to 9/1) to give the title compound (0.89 g) as a white foam.

reactant | Tetrabutylammonium fluoride | 1.1M, 5.6 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dimethyl 2-(3,4-dichlorophenyl)-2-(2-{[(1,1-dimethylethyl)(diphenyl)silyl]oxy}ethyl)-1,1-cyclopropanedicarboxylate | 2.38 g | ClC=1C=C(C=CC1Cl)C1(C(C1)(C(=O)OC)C(=O)OC)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C31H34Cl2O5Si
reactant | NH4OH | 16 mL | [NH4+].[OH-]
solvent | THF | 27 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | methyl 1-(aminocarbonyl)-2-(3,4-dichlorophenyl)-2-(2-hydroxyethyl)cyclopropanecarboxylate | 0.89 g | NC(=O)C1(C(C1)(CCO)C1=CC(=C(C=C1)Cl)Cl)C(=O)OC | C14H15Cl2NO4
